US20010056179A1
A solution of 4-(4-hydroxyphenyl)cyclohexanone (6.0 g, 31.6 mmol) in DMF (90 mL) was treated with K2CO3 (21 g, 158 mmol, 5 equiv) and 2-iodopropane (15 mL, 26.8 g, 158 mmol, 5 equiv.). The reaction was heated at 100° C. overnight. After the solvent was removed, the residue was treated with H2O and extracted with EtOAc. The organic extracts were combined and washed with brine, dried over Na2SO4 and concentrated in vacuum to give the spectroscopically pure 4-(4-isopropoxyphenyl)cyclohexanone (7.02 g, 95%/o). 1 H NMR (CDCl3): 7.14 (dt, 2H), 6.84 (dt, 2H), 4.3 (septet, 1H), 2.97 (tt, 1H), 2.46-2.52 (m, 4H), 2.16-2.24 (m, 2H), 1.83-1.98 (m, 2H) and 1.33 (d, 6H).

reactant | 4-(4-hydroxyphenyl)cyclohexanone | 31.6 mmol, 6.0 g | OC1=CC=C(C=C1)C1CCC(CC1)=O | C12H14O2
reactant | K2CO3 | 158 mmol, 21 g, 5 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-iodopropane | 158 mmol, 15 mL, 26.8 g, 5 equiv. | IC(C)C | C3H7I
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
product | 4-(4-isopropoxyphenyl)cyclohexanone | 7.02 g, 95% | C(C)(C)OC1=CC=C(C=C1)C1CCC(CC1)=O | C15H20O2
